US09119868B2
A solution of lithium bis(trimethylsilyl)amide (1 M in THF) (1.93 mL, 1.93 mmol) was added dropwise to a solution of ethyl 6-((3-bromophenyl)amino)-5-cyclopropyl-2-(4-fluorophenyl)benzofuran-3-carboxylate (734 mg, 1.48 mmol) in THF (10 mL) at −78° C. The mixture was stirred for 45 minutes and then a solution of methanesulfonyl chloride (0.463 mL, 5.94 mmol) in THF (1.5 mL) was added at −78° C. After complete addition the reaction mixture was allowed to warm to room temperature overnight. Water and EtOAc were added. The organic layer was washed with water and brine, dried over sodium sulfate and concentrated. The residue was purified by silica gel chromatography (hexane:EtOAc) to give ethyl 6-(N-(3-bromophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)benzofuran-3-carboxylate (318 mg, 37%) as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.20 (s, 1H) 8.03-8.13 (m, 2H) 7.62-7.66 (m, 1H) 7.59 (s, 1H) 7.43 (s, 4H) 7.30-7.39 (m, 1H) 4.26-4.41 (m, 2H) 3.42 (s, 3H) 2.12-2.26 (m, 1H) 1.28-1.37 (m, 3H) 0.71-1.14 (m, 4H) 0.41 (m, 1H). %). LCMS (m/z, ES+)=572, 574 (M+H, M+2).

reactant | lithium bis(trimethylsilyl)amide | 1.93 mmol, 1 M, 1.93 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | ethyl 6-((3-bromophenyl)amino)-5-cyclopropyl-2-(4-fluorophenyl)benzofuran-3-carboxylate | 1.48 mmol, 734 mg | BrC=1C=C(C=CC1)NC1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)OCC)C=C1C1CC1 | C26H21BrFNO3
reactant | methanesulfonyl chloride | 5.94 mmol, 0.463 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | ethyl 6-(N-(3-bromophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)benzofuran-3-carboxylate | 318 mg, 37% | BrC=1C=C(C=CC1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)OCC)C=C1C1CC1 | C27H23BrFNO5S
